US05576323
4-(6-Bromo-2-naphthyloxy)glutamic Acid (22)
A mixture of lithium hydroxide (0.156 g) in water (2.0 ml) and tetrahydrofuran (6.6 ml) was treated with methyl 3-(6-bromo-2-naphthyloxy)-2-pyrrolidone-5-carboxylate (0.615 g), and heated to 60° C. After about 3.0 hours, the reaction mixture was allowed to cool to room temperature. The reaction mixture was treated with 5N HCl (1.30 ml). The insolubles were collected by filtration, washed with 1:1 THF:water (10 ml), THF (10 ml), and water (5 ml). The insolubles were dried overnight in at vacuum oven at 60° C. to afford the title compound.

reactant | lithium hydroxide | 0.156 g | [OH-].[Li+]
reactant | methyl 3-(6-bromo-2-naphthyloxy)-2-pyrrolidone-5-carboxylate | 0.615 g | BrC=1C=C2C=CC(=CC2=CC1)OC1C(NC(C1)C(=O)OC)=O | C16H14BrNO4
reactant | HCl | 5N, 1.30 ml | Cl | ClH
solvent | water | 2.0 ml | O | H2O
solvent | tetrahydrofuran | 6.6 ml | O1CCCC1 | C4H8O
product | 4-(6-Bromo-2-naphthyloxy)glutamic Acid | BrC=1C=C2C=CC(=CC2=CC1)OC(C[C@H](N)C(=O)O)C(=O)O | C15H14BrNO5
